US04383945
A solution of methyl 2-hydroxy-2-[(4R)-4-(2-oxopropyl)-2-oxoazetidin-1-yl]acetate (268 mg) in tetrahydrofuran (5 ml) was cooled to -40° C. 2,6-Lutidine (0.287 ml) and thionyl chloride (0.18 ml) were added, and the mixture was stirred for one hour, during which time the temperature was allowed to warm to 0° C. The mixture was filtered and the filtrate was concentrated in vacuo to give methyl 2-chloro-2-[(4R)-4-(2-oxopropyl)-2-oxoazetidin-1-yl]acetate. This product was diluted with benzene and concentrated in vacuo again. The residue was diluted with tetrahydrofuran (5 ml), and 2,6-lutidine (0.287 ml) and triphenylphosphine (650 mg) were added at 0° C. The mixture was stirred at room temperature for 15 hours, and filtered. The filtrate was concentrated in vacuo and the residue was chromatographed on silica gel (10 g) eluting with a mixture of ethyl acetate and acetone (10:1-10:5 ) to give methyl 2-[(4R)-4-(2-oxopropyl)-2-oxoazetidin-1-yl]-2-(triphenylphosphoranylidene)acetate (350 mg) as an oil.

reactant | methyl 2-hydroxy-2-[(4R)-4-(2-oxopropyl)-2-oxoazetidin-1-yl]acetate | 268 mg | OC(C(=O)OC)N1C(C[C@H]1CC(C)=O)=O | C9H13NO5
reactant | 2,6-Lutidine | 0.287 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | thionyl chloride | 0.18 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | methyl 2-chloro-2-[(4R)-4-(2-oxopropyl)-2-oxoazetidin-1-yl]acetate | ClC(C(=O)OC)N1C(C[C@H]1CC(C)=O)=O | C9H12ClNO4
